US05808062
6-(1,1'-Biphenyl-3-yl)-3-[[2-(cyclopropylmethyl)phenyl]thio]-4-hydroxy-2H-pyran-2-one:
The title compound was prepared by Method A using 3'-phenyl acetophenone (2 g, 10.20 mmol), trimethylsilyl triflate (2.27 g, 10.20 mmol), triethylamine (2.06 g, 20.40 mmol), methylene chloride (20 mL), and diethyl ester of [[2-(cyclopropylmethyl)phenyl]thio]propanedioic acid (1.14 g, 5.1 mmol). m.p. 88° C.; 1H NMR (400 MHz, DMSO-d6) δ 0.25 (d, 2H), 0.53 (dd, 2H), 1.14 (m, 1H), 2.67 (d, 2H), 6.94 (m, 1H), 7.03 (s, 1H), 7.11 (m, 2H), 7.33 (m, 1H), 7.44 (d, 1H), 7.53 (t, 2H), 7.67 (t, 1H), 7.75 (d, 2H), 7.86 (m, 2H), 8.08 (s, 1H).

reactant | 3'-phenyl acetophenone | 10.20 mmol, 2 g | C1(=CC=CC=C1)C=1C=C(C=CC1)C(C)=O | C14H12O
reactant | trimethylsilyl triflate | 10.20 mmol, 2.27 g | O(S(=O)(=O)C(F)(F)F)[Si](C)(C)C | C4H9F3O3SSi
reactant | triethylamine | 20.40 mmol, 2.06 g | C(C)N(CC)CC | C6H15N
reactant | [[2-(cyclopropylmethyl)phenyl]thio]propanedioic acid | 5.1 mmol, 1.14 g | C1(CC1)CC1=C(C=CC=C1)SC(C(=O)O)C(=O)O | C13H14O4S
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | 6-(1,1'-Biphenyl-3-yl)-3-[[2-(cyclopropylmethyl)phenyl]thio]-4-hydroxy-2H-pyran-2-one | C1(=CC(=CC=C1)C1=CC(=C(C(O1)=O)SC1=C(C=CC=C1)CC1CC1)O)C1=CC=CC=C1 | C27H22O3S
